US08076358B2
Step C: 5-(3-[1,3]Dioxan-2-yl-phenylsulfanyl)-4-fluoro-2-nitro-benzaldehyde
[5-(3-[1,3]Dioxan-2-yl-phenylsulfanyl)-4-fluoro-2-nitro-phenyl]-methanol (2.22 g, 6.08 mmol) was placed in chloroform (250 mL), and MnO2 (6.4 g) was added. The resulting mixture was stirred overnight at room temperature. After 18 h of stirring, the mixture was heated at 40° C. for 1 hour. The resulting mixture was worked up by filtration through Celite®. The filtrate was concentrated to yield an oil, which was purified by silica column chromatography (20% EtOAc/heptane) to yield a solid.

reactant | [5-(3-[1,3]Dioxan-2-yl-phenylsulfanyl)-4-fluoro-2-nitro-phenyl]-methanol | 6.08 mmol, 2.22 g | O1C(OCCC1)C=1C=C(C=CC1)SC=1C(=CC(=C(C1)CO)[N+](=O)[O-])F | C17H16FNO5S
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 6.4 g | O=[Mn]=O
product | 5-(3-[1,3]Dioxan-2-yl-phenylsulfanyl)-4-fluoro-2-nitro-benzaldehyde | O1C(OCCC1)C=1C=C(C=CC1)SC=1C(=CC(=C(C=O)C1)[N+](=O)[O-])F | C17H14FNO5S
